US07476666B2
Step 4: (7S)-3-Hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid
To a solution of ethyl (7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (0.30 g, 1.00 mmol) in MeOH (10 mL) was added aqueous 1N NaOH (5.97 mL, 5.97 mmol). The reaction was stirred at 50° C. overnight and quenched by the addition of aqueous 3N HCl (2.00 mL, 2.00 mmol). Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product as a light pink solid. 1H NMR (400 MHz, d6-DMSO) δ 8.90 (bs, 1H), 7.37 (m, 3H), 7.08 (m, 2H), 5.74 (t, J=4.6 Hz, 1H), 4.15 (dd, J=13.4, 4.6 Hz, 1H), 3.86 (dd, J=13.4, 4.7 Hz, 1H), 2.89 (s, 3H); ES MS (M+1)=288.

reactant | ethyl (7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 1.00 mmol, 0.30 g | OC=1C(=NN2C1C(N(C[C@@H]2C2=CC=CC=C2)C)=O)C(=O)OCC | C16H17N3O4
reactant | NaOH | 5.97 mmol, 1N, 5.97 mL | [OH-].[Na+]
reactant | HCl | 2.00 mmol, 3N, 2.00 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | (7S)-3-Hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | OC=1C(=NN2C1C(N(C[C@@H]2C2=CC=CC=C2)C)=O)C(=O)O | C14H13N3O4
